US08633173B2
N-(3-{[2-(3-Methanesulfonyl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-pyridin-2-yl)-N-methyl-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide (75.0 mg, 0.204 mmol) and 3-methanesulfonyl-phenylamine;

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | 0.204 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
product | N-(3-{[2-(3-Methanesulfonyl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-pyridin-2-yl)-N-methyl-methanesulfonamide | CS(=O)(=O)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C21H23N7O4S2
